US07786132B2
(i) N-(4-Fluorophenyl)-N-methylthiazol-5-amine
5.0 g (40 mmol) of 4-fluoro-N-methylaniline and 3.6 mL (40 mmol) of 2-bromothiazole were added to a suspension of 1.9 g (81 mmol) of NaH in 100 mL of DMF, and the suspension was stirred overnight at rt. The reaction mixture was concentrated onto 20 g of silica in vacuo and the residue purified by flash chromatography eluting with a linear gradient of 20% EtOAc in hexane to 100% EtOAc to deliver the desired compound. MS (M+H)+ 209.

reactant | 4-fluoro-N-methylaniline | 40 mmol, 5.0 g | FC1=CC=C(NC)C=C1 | C7H8FN
reactant | 2-bromothiazole | 40 mmol, 3.6 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | NaH | 81 mmol, 1.9 g | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-(4-Fluorophenyl)-N-methylthiazol-5-amine | FC1=CC=C(C=C1)N(C1=CN=CS1)C | C10H9FN2S
